US09061030B2
To a stirring solution of 4-(3-(4-bromopyridin-2-yl)-1H-1,2,4-triazol-5-yl)oxazole (1 eq) in DMF was added sodium hydride (2.1 eq). After 10 minutes, 1-(bromomethyl)-2-fluorobenzene (1.1 eq) was added and the reaction was stirred overnight at room temperature. Brine was used to quench the reaction. Methylene chloride was used to extract the aqueous layer. The combined organic layers were washed with brine, dried over sodium sulfate and concentrated. SiO2 chromatography yielded 4-(3-(4-bromopyridin-2-yl)-1-(2-fluorobenzyl)-1H-1,2,4-triazol-5-yl)oxazole as a solid in 1% yield.

reactant | 4-(3-(4-bromopyridin-2-yl)-1H-1,2,4-triazol-5-yl)oxazole | 1 eq | BrC1=CC(=NC=C1)C1=NNC(=N1)C=1N=COC1 | C10H6BrN5O
reactant | sodium hydride | 2.1 eq | [H-].[Na+]
reactant | 1-(bromomethyl)-2-fluorobenzene | 1.1 eq | BrCC1=C(C=CC=C1)F | C7H6BrF
reactant | Methylene chloride | C(Cl)Cl | CH2Cl2
solvent | DMF | CN(C)C=O | C3H7NO
solvent | Brine | [Cl-].[Na+].O
product | 4-(3-(4-bromopyridin-2-yl)-1-(2-fluorobenzyl)-1H-1,2,4-triazol-5-yl)oxazole | 1% yield | BrC1=CC(=NC=C1)C1=NN(C(=N1)C=1N=COC1)CC1=C(C=CC=C1)F | C17H11BrFN5O
